US07402595B2
2-benzyl-6-chloro-1-oxo-4-(m-tolyl)-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
The present compound was synthesized by a method similar to that in Example 272 and using 2-benzyl-6-chloro-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (100 mg) and 3-methylphenylboronic acid. A colorless powder (63 mg).

reactant | 2-benzyl-6-chloro-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 100 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1OS(=O)(=O)C(F)(F)F)Cl)=O)CC1=CC=CC=C1 | C19H13ClF3NO6S
reactant | 3-methylphenylboronic acid | CC=1C=C(C=CC1)B(O)O | C7H9BO2
product | 2-benzyl-6-chloro-1-oxo-4-(m-tolyl)-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | COC(=O)C=1N(C(C2=CC=C(C=C2C1C=1C=C(C=CC1)C)Cl)=O)CC1=CC=CC=C1 | C25H20ClNO3
